US05998429
C. N-(1-Naphthyl)carbamic Acid 1-azabicyclo[2.2.2]octan-3-yl Ester
1-Naphthylisocyanate and 3-quinuclidinol were used. The title compound was isolated as a white solid (34%): mp 186-188° C.; FAB LRMS m /z 297 (MH+).

reactant | 1-Naphthylisocyanate | C1(=CC=CC2=CC=CC=C12)N=C=O | C11H7NO
reactant | 3-quinuclidinol | N12CC(C(CC1)CC2)O | C7H13NO
product | N-(1-Naphthyl)carbamic Acid 1-azabicyclo[2.2.2]octan-3-yl Ester | N12CC(C(CC1)CC2)OC(NC2=CC=CC1=CC=CC=C21)=O | C18H20N2O2
